US05646308
To a mixture of 0.78 g of 2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxylic acid and 5 ml of tetrahydrofuran was added 0.67 g of 1,1'-carbonyldiimidazole with stirring under ice-cooling and the mixture was stirred for 1 hour. Then, 6.3 ml of 40% methylamine (methanol solution) was added therein. The resultant mixture was stirred under ice-cooling for 1 hour and then at room temperature for 14 hours. An aqueous potassium carbonate solution was added therein and the mixture was extracted with ether. An organic layer was washed with water and dried, and the solvent was distilled. The obtained residue was purified according to silica gel column chromatography (developing solution, MeOH:CH2Cl2 =1:99) to obtain 0.13 g of 2,2-bis(fluoromethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carboxamide with a melting point of 178°-179° C.

reactant | 2,2-bis(fluoromethyl)-6-nitro-2H-1-benzopyran-4-carboxylic acid | 0.78 g | FCC1(OC2=C(C(=C1)C(=O)O)C=C(C=C2)[N+](=O)[O-])CF | C12H9F2NO5
reactant | 1,1'-carbonyldiimidazole | 0.67 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 6.3 ml | CN | CH5N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | 2,2-bis(fluoromethyl)-N-methyl-6-nitro-2H-1-benzopyran-4-carboxamide | 0.13 g | FCC1(OC2=C(C(=C1)C(=O)NC)C=C(C=C2)[N+](=O)[O-])CF | C13H12F2N2O4
